US05344843
Preparation of (Z)-4-[2-[2-[(2,2-Dimethyl-1-oxobutoxy)methyl]-6methylphenyloxy]ethoxy]-alpha-methoxyiminobenzeneacetic acid
As in Example 19, (Z)-4-[2-[2-[(2,2-dimethyl-1-oxobutoxy)methyl]-6-methylphenyloxy]ethoxy]-alpha-methoxyiminobenzeneacetic acid methyl ester (0.231 g) in methanol (5 mL) was treated with 1N sodium hydroxide (0.54 mL) and the mixture was stirred overnight at room temperature. The usual work up gave 0.188 g of an oil which was purified by flash chromatography over silica gel (formic acid-diethyl ether 1:49) to yield 0.07 g of recovered starting ester along with 0.055 g of (Z)-4-[2-[2-[(2,2-dimethyl-1 -oxobutoxy)methyl]-6-methylphenyloxy]ethoxy]-alpha-methoxyiminobenzene acetic acid as an oil.

reactant | (Z)-4-[2-[2-[(2,2-dimethyl-1-oxobutoxy)methyl]-6-methylphenyloxy]ethoxy]-alpha-methoxyiminobenzeneacetic acid methyl ester | 0.231 g | COC(\C(\C1=CC=C(C=C1)OCCOC1=C(C=CC=C1C)COC(C(CC)(C)C)=O)=N/OC)=O | C26H33NO7
reactant | sodium hydroxide | 1N, 0.54 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | (Z)-4-[2-[2-[(2,2-Dimethyl-1-oxobutoxy)methyl]-6methylphenyloxy]ethoxy]-alpha-methoxyiminobenzeneacetic acid | CC(C(OCC1=C(C(=CC=C1)C)OCCOC1=CC=C(C=C1)/C(/C(=O)O)=N/OC)=O)(CC)C | C25H31NO7
